US09079866B2
Step A: 3-Bromo-2-((3-chloropropyl)thio)pyridine
A mixture of 3-bromopyridine-2-thiol (0.04 g, 0.2 mmol), 1-bromo-3-chloropropane in DMF (0.424 mmol/mL, 2.0 mL), and K2CO3 (60 mg, 0.424 mmol) in DMF (2.0 mL) was stirred at rt for 10 minutes. The reaction mixture was then concentrated to dryness and the resultant residue diluted with water (10 mL) and extracted with ethyl acetate (3×10 mL). The combined organic extracts were dried over Na2SO4 and concentrated to dryness to give the title compound (0.05 g, 89% purity). MS (ESI): mass calcd. for C8H9BrClNS, 264.93; m/z found, 265.8 [M+H]+.

reactant | 3-bromopyridine-2-thiol | 0.2 mmol, 0.04 g | BrC=1C(=NC=CC1)S | C5H4BrNS
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | K2CO3 | 0.424 mmol, 60 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.424 mmol/mL, 2.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-2-((3-chloropropyl)thio)pyridine | 0.05 g, 89% | BrC=1C(=NC=CC1)SCCCCl | C8H9BrClNS
